US07153851B2
(3R,4R)-1-Benzyloxycarbonyl-3-hydroxy-4-methanesulfonyloxymethylpyrrolidine (125 mg) was dissolved in N,N-dimethylformamide (3 mL) and sodium azide (50.0 mg) was added. The mixture was stirred at 100° C. for 1 hour and was then concentrated under reduced pressure. The resulting residue was dissolved in ethyl acetate (5 mL) and the solution was washed with water (2×1 mL), followed by drying over anhydrous sodium sulfate and concentration under reduced pressure. The resulting residue was purified on a silica gel column (eluant=ethyl acetate) to give 91.0 mg of (3R,4R)-3-azidomethyl-1-benzyloxycarbonyl-4-hydroxypyrrolidine as a milky white syrup-like product. The compound was identical to the compound obtained by Process (A).

reactant | (3R,4R)-1-Benzyloxycarbonyl-3-hydroxy-4-methanesulfonyloxymethylpyrrolidine | 125 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)COS(=O)(=O)C)O | C14H19NO6S
reactant | sodium azide | 50.0 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (3R,4R)-3-azidomethyl-1-benzyloxycarbonyl-4-hydroxypyrrolidine | 91.0 mg | N(=[N+]=[N-])C[C@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C13H16N4O3
